US04866151
2-[2-(1,3-Dioxolan-2-yl)-1-methylethoxy]ethyl methacrylate (V)
Following the above procedure, the monomer was prepared using 22 g triethylamine, 35.2 g 2-[2-(2-hydroxyethoxy)-propyl]-1,3-dioxolane, 23.22 g methacryloyl chloride, and 180 ml methylene chloride. The product was purified by vacuum distillation at 93.2° C. under 0.2 mm Hg pressure.

reactant | triethylamine | 22 g | C(C)N(CC)CC | C6H15N
reactant | 2-[2-(2-hydroxyethoxy)-propyl]-1,3-dioxolane | 35.2 g | OCCOC(CC1OCCO1)C | C8H16O4
reactant | methacryloyl chloride | 23.22 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | methylene chloride | 180 ml | C(Cl)Cl | CH2Cl2
product | 2-[2-(1,3-Dioxolan-2-yl)-1-methylethoxy]ethyl methacrylate | C(C(=C)C)(=O)OCCOC(CC1OCCO1)C | C12H20O5
